US07368578B2
A mixture of ethyl (4-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate (2.00 g), [(2-ethyl-1,3-thiazol-4-yl)methyl]triphenylphosphonium chloride (2.19 g), anhydrous potassium carbonate (713 mg) and N,N-dimethylformamide (30 mL) was stirred at room temperature for 16 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:4 to 1:1, v/v) to give ethyl {4-[4-({4-[({4-[(Z)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate as colorless crystals (0.71 g, yield 31%). The crystals were recrystallized from tetrahydrofuran-hexane. melting point: 136-137° C.

reactant | ethyl (4-{4-[(4-{[(4-formyl-1-phenyl-1H-pyrazol-3-yl)oxy]methyl}-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate | 2.00 g | C(=O)C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C33H31N3O7
reactant | [(2-ethyl-1,3-thiazol-4-yl)methyl]triphenylphosphonium chloride | 2.19 g | [Cl-].C(C)C=1SC=C(N1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 713 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl {4-[4-({4-[({4-[(Z)-2-(2-ethyl-1,3-thiazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate | 0.71 g, yield 31% | C(C)C=1SC=C(N1)\C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C39H38N4O6S
